US07863302B2
2,6 Dichloro-benzaldehyde chloroxime
To a solution of 2,6-dichloro-benzaldehyde (7.6 g, 40 mmol) in DMF (56 mL) is added N-chlorosuccinimide (5.9 g, 44.0 mmol) followed by a catalytic amount of HCl gas. The reaction mixture is stirred overnight. The reaction mixture is partitioned between ether and water. The layers are separated and the ether layer is washed with brine and dried over sodium sulfate. The ether layer is filtered and the solvent is removed under reduced pressure to yield the crude product. The crude product is chromatographed using a gradient of 10% ethyl acetate in hexanes to 15% ethyl acetate in hexanes to yield the title compound. 1H-NMR (400 MHz, CDCl3) δ 8.76 (b, 1H), 7.38-7.26 (m, 3H).

reactant | 2,6-dichloro-benzaldehyde | 40 mmol, 7.6 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | N-chlorosuccinimide | 44.0 mmol, 5.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | HCl | Cl | ClH
reactant | DMF | 56 mL | CN(C)C=O | C3H7NO
product | 2,6 Dichloro-benzaldehyde chloroxime | ClON=CC1=C(C=CC=C1Cl)Cl | C7H4Cl3NO
